US05470967
A solution of 25.0 g (93.6 mmol) of 5'-azido-5'-deoxythymidine (which can be prepared as in reference 36), 21.1 g (140 mmol) of t-butyldimethylsilyl chloride, and 12.7 g (187 mmol) imidazole in 190 ml of anhydrous DMF was stirred at RT under nitrogen for 18 hr. The DMF was removed under vacuum. The oil was partitioned between ether (500 ml) and 1N NaOH (2×300 ml). The aqueous layers were cooled with ice, and 650 ml of 1N HCl were added. The product was extracted with EtOAc (2×750 ml), and the organic layer was washed with brine, dried, and evap. After remaining under high vacuum for 24 hr, the oil crystallized to give 27.9 g of 5'-azido-3'-O-t-butyldimethylsilyl-5'-deoxythymidine as a white solid: NMR (300 MHz,d6-DMSO) δ11.34 (br,1H), 7.50 (s,1H), 6.16 (t,1H,J=7 Hz), 4.36 (m,1H), 3.84 (m,1H), 3.55 (m,2H), 2.34 (m,1H), 2.05 (m,1H), 1.79 (s,3H), 0.86 (s,9H), 0.08 (s,6H).

reactant | 5'-azido-5'-deoxythymidine | 93.6 mmol, 25.0 g | N(=[N+]=[N-])C[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)O | C10H13N5O4
reactant | t-butyldimethylsilyl chloride | 140 mmol, 21.1 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 187 mmol, 12.7 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 190 ml | CN(C)C=O | C3H7NO
product | 5'-azido-3'-O-t-butyldimethylsilyl-5'-deoxythymidine | 27.9 g | N(=[N+]=[N-])C[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)O[Si](C)(C)C(C)(C)C | C16H27N5O4Si
